US06921821B2
6-Chloro-4-hydroxy-3-nitro-chromen-2-one
Red fuming nitric acid (10 mL) was added to a stirred suspension of 6-Chloro-4-hydroxy-chromen-2-one (2.0 g, 10.17 mmol) in chloroform (200 mL) at 0° C. The resultant solution was stirred at 0° C. for 1.5 h, quenched with water (80 mL), the organics separated and treated with saturated NaHCO3 when a thick yellow solid fell out of solution. The solid was filtered and the filtrate acidified with 3N HCl (pH 2) and extracted with chloroform. The organic extracts were dried to a yellow powder and all solids were combined and identified as 6-chloro-4-hydroxy-3-nitro-chromen-2-one. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.78 (d, 1H), 7.55 (dd, 1H), 7.23 (d, 1H).

reactant | nitric acid | 10 mL | [N+](=O)(O)[O-] | HNO3
reactant | 6-Chloro-4-hydroxy-chromen-2-one | 10.17 mmol, 2.0 g | ClC=1C=C2C(=CC(OC2=CC1)=O)O | C9H5ClO3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-4-hydroxy-3-nitro-chromen-2-one | ClC=1C=C2C(=C(C(OC2=CC1)=O)[N+](=O)[O-])O | C9H4ClNO5
